US07538123B2
(3) 4-Allyl-5-methoxy-2-methylbenzoxazole
1.44 g of 4-allyl-5-hydroxy-2-methylbenzoxazole was dissolved in 5 ml of N,N-dimethylformamide and 5 ml of acetonitrile. Thereafter, 1.05 g of potassium carbonate and 0.55 ml of methyl iodide were successively added to the reaction solution. Approximately 16 hours later, water and ethyl acetate were added to the reaction solution, so as to separate an organic layer. The obtained organic layer was washed with a saturated sodium chloride solution and then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure, and the residue was then purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 1.26 g of the subject compound.

reactant | 4-allyl-5-hydroxy-2-methylbenzoxazole | 1.44 g | C(C=C)C1=C(C=CC2=C1N=C(O2)C)O | C11H11NO2
reactant | potassium carbonate | 1.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.55 ml | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Allyl-5-methoxy-2-methylbenzoxazole | 1.26 g | C(C=C)C1=C(C=CC2=C1N=C(O2)C)OC | C12H13NO2
